* C:\Users\carlo\OneDrive\Escritorio\ASSD\TPs\TP1\Remuestreo\Simulacion\AM_Llave_analog.asc
XU1 Input Out Control VDD Vss 4066
V§Entrada Input 0 PWL file=C:\Users\carlo\OneDrive\Escritorio\ASSD\TPs\TP1\Remuestreo\AM.txt
V§Pulso Control 0 PULSE(-12 12 0 0 0 10u 20u)
V1 VDD 0 12
V2 0 Vss 12
R1 Out 0 10k
C1 Out 0 18p
.tran 0 1m 0 0.001
.lib SwitchAna.lib
.backanno
.end
